US06489314B1
(c) (3S)-3-(triethylsilyloxy)-3-(6-quinolyl)propanal
A solution of (2R)-N-[3-(triethylsilyloxy)-3-(6-quinolyl)-propionyl]bornane-10,2-sultam (52.8 gm) in 1000 mL of CH2Cl2 is cooled to −78° C, and a 1.0 M solution of diisobutylaluminum hydride in hexane is added dropwise so as to keep the reaction temperature below −65° C. The mixture is stirred for an additional 6 hours at −78° C., then is quenched by addition of sat. aq. NH4Cl and allowed to warm to ambient temperature. The mixture is washed with brine, and the organic phase is dried over MgSO4, filtered, and evaporated. The product is purified by silica gel chromatography.

reactant | (2R)-N-[3-(triethylsilyloxy)-3-(6-quinolyl)-propionyl]bornane-10,2-sultam | 52.8 gm | C(C)[Si](OC(CC(=O)N1S(=O)(=O)CC23[C@H]1CC(CC2)C3(C)C)C=3C=C2C=CC=NC2=CC3)(CC)CC | C28H40N2O4SSi
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | CH2Cl2 | 1000 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | (3S)-3-(triethylsilyloxy)-3-(6-quinolyl)propanal | C(C)[Si](O[C@@H](CC=O)C=1C=C2C=CC=NC2=CC1)(CC)CC | C18H25NO2Si
